US04482559
2-Acetylamino-4-(p-bromo-phenyl)-6-methyl-4,5,6,7-te trahydro-thieno[2,3-c]pyridine
25 ml of fuming nitric acid were added dropwise to 14.5 gm (0.047 mol) of 4-(p-bromo-phenyl)-6-methyl-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine in 100 ml of trifluoroacetic acid, while cooling, so that the temperature did not exceed 20° C. After all the nitric acid had been added, the mixture was stirred for a further 30 minutes. The reaction mixture was then poured over ice, concentrated ammonia was added until the mixture reacted alkaline, and the mixture was then extracted with methylene chloride. After the solvent had been evaporated, the residual 4-(p-bromo-phenyl)-6-methyl-2-nitro-4,5,6,7-tetrahydrothieno[2,3-c]pyridine was crystallized as its hydrochloride from alcoholic hydrochloric acid.

reactant | nitric acid | 25 ml | [N+](=O)(O)[O-] | HNO3
reactant | 4-(p-bromo-phenyl)-6-methyl-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine | 0.047 mol, 14.5 gm | BrC1=CC=C(C=C1)C1C2=C(CN(C1)C)SC=C2 | C14H14BrNS
reactant | ammonia | N | H3N
reactant | trifluoroacetic acid | 100 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-Acetylamino-4-(p-bromo-phenyl)-6-methyl-4,5,6,7-te trahydro-thieno[2,3-c]pyridine | C(C)(=O)NC1=CC2=C(CN(CC2C2=CC=C(C=C2)Br)C)S1 | C16H17BrN2OS
